US07727985B2
A solution of 3-indoleacetonitrile (10 g, 64 mmol) in DMF (160 ml) was stirred at RT. K2CO3 (13.3 g, 96 mmol) and di-tert-butyl dicarbonate (15.35 g, 70 mmol) were added thereto and the reaction mixture was stirred at RT for 12 hr. H2O (100 ml) was added to the reaction mixture and the resulting precipitate was captured by filtration. The solids were dissolved in hot methanol (20 ml) and the solution was allowed to cool slowly, producing light orange solids that were isolated by filtration to give 3-cyanomethyl-indole-1-carboxylic acid tert-butyl ester (9.2 g).

reactant | 3-indoleacetonitrile | 64 mmol, 10 g | N1C=C(C2=CC=CC=C12)CC#N | C10H8N2
reactant | K2CO3 | 96 mmol, 13.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | di-tert-butyl dicarbonate | 70 mmol, 15.35 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | H2O | 100 ml | O | H2O
solvent | DMF | 160 ml | CN(C)C=O | C3H7NO
product | 3-cyanomethyl-indole-1-carboxylic acid tert-butyl ester | 9.2 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)CC#N | C15H16N2O2
